US09192604B2
2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzonitrile (80 g, 218 mmol) was dissolved in 1,4-dioxane (1.5 L) and 1 M NaOH (1500 mL, 1500 mmol) was added. The suspension was refluxed overnight. After cooling to RT, ethyl acetate (1 L) was added and layers were separated. The water layer was washed with 1 L of ethyl acetate. Both organic layers were combined and backwashed with 0.1 M NaOH (1 L) until no product was observed in organic. The organics were then discarded. Combined aqueous were then washed with 1 L of ethyl acetate. The water layer was then acidified with acetic acid (very slowly to ph˜7). The solid was filtered and 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid (67 g, 165 mmol, 76% yield) was isolated as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.28 (d, J=6.57 Hz, 6H) 2.11 (s, 3H) 4.41 (quin, J=6.57 Hz, 1H) 5.96 (s, 1H) 6.83 (s, 1H) 7.09 (ddd, J=8.02, 5.12, 3.03 Hz, 1H) 7.40 (1H) 7.52-7.61 (m, 2H) 7.91-8.16 (m, 2H) 8.55 (s, 1H) 10.17 (brs, 1H) 13.64 (brs, 1H); HPLC Rt=2.35 min, MS (ESI): [M+H]+=386.1.

reactant | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzonitrile | 218 mmol, 80 g | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C#N)C=CC=C1 | C19H19ClN6
reactant | NaOH | 1500 mmol, 1 M, 1500 mL | [OH-].[Na+]
reactant | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 1.5 L | O1CCOCC1 | C4H8O2
product | 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid | 165 mmol, 67 g, 76% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)O)C=CC=C1 | C19H20ClN5O2
